US06372770B1
(c) 5-Chloro-2-(2-chlorophenyl)-benzoxazole-7-propanoic Acid
10.3 ml (41 mmol of O) of Kiliani solution was added at −10° to −5° C. within 20 minutes to a solution of 6.44 g (20 mmol) of 5-chloro-2-(2-chlorophenyl)-7-(3-hydroxy-propyl)-benzoxazole in 130 mg of acetone. After 45 minutes, 5 ml of methanol and 130 ml of water were added. The acetone was removed in vacuo, the solid suspended, collected, and washed with 1 N sulfuric acid and water. The residue was taken up in 35 ml of 1 N NaOH and 50 ml of water, and extracted with ether. The water phase was acidified with 5 N HCl to pH 3. Filtration and washing gave the title compound (4.88 g, 72.6%), mp 152-4° C.

reactant | 5-chloro-2-(2-chlorophenyl)-7-(3-hydroxy-propyl)-benzoxazole | 20 mmol, 6.44 g | ClC=1C=C(C2=C(N=C(O2)C2=C(C=CC=C2)Cl)C1)CCCO | C16H13Cl2NO2
reactant | methanol | 5 ml | CO | CH4O
reactant | water | 130 ml | O | H2O
solvent | acetone | 130 mg | CC(=O)C | C3H6O
product | 5-Chloro-2-(2-chlorophenyl)-benzoxazole-7-propanoic Acid | 4.88 g, 72.6% | ClC=1C=C(C2=C(N=C(O2)C2=C(C=CC=C2)Cl)C1)CCC(=O)O | C16H11Cl2NO3
